US05514680
Preparation of 5-Nitro-6,7,8-trifluoro-1,4-dihydro-2,3-quinoxalinedione
To 5,6,7-trifluoro-1,4-dihydro-2,3-quinoxalinedione (93 mg, 0.43 mmol) is added concentrated sulfuric acid (0.5 mL). While the flask is an ice bath, KNO3 is slowly added, giving a brown mixture, which is stirred overnight. The reaction mixture, now dark red, is then added into ice water (5 mL), instantly giving an orange precipitate, which is collected by centrifugation. The powder was crystallized from EtOH (5 mL) and dried in vacuo to yield 24 mg (20%) of pale orange microcrystals. 1H NMR (DMSO-d6), 11.9 (br s, 1H), 12.6 (br s, 1H).

reactant | 5,6,7-trifluoro-1,4-dihydro-2,3-quinoxalinedione | 0.43 mmol, 93 mg | FC1=C2NC(C(NC2=CC(=C1F)F)=O)=O | C8H3F3N2O2
reactant | sulfuric acid | 0.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | KNO3 | [N+](=O)([O-])[O-].[K+]
product | 5-Nitro-6,7,8-trifluoro-1,4-dihydro-2,3-quinoxalinedione | [N+](=O)([O-])C1=C2NC(C(NC2=C(C(=C1F)F)F)=O)=O | C8H2F3N3O4
